US07812024B2
Step A. Preparation of N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-methoxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one (201 mg, 0.5 mmol) in dry CH2Cl2 (3 mL) at −78° C. under Ar was added IM boron tribromide in CH2Cl2 (1.75 mL). The reaction was stirred for 1 h and then warmed to room temperature for 18 h. The reaction was refluxed for 24 h and then quenched with water. The reaction was stirred for 30 min and then conc. in vacuo to a brown solid. The solid was treated with 6M HCl. After 1 h, the reaction was conc. in vacuo to a brown solid. The solid was partioned between water and EtOAc, basified with sodium bicarbonate, and treated with di-t-butyl dicarbonate (109 mg, 0.5 mmol). The reaction was stirred for 1 h and extracted with EtOAc (3×10 mL). The organic layers were combined, dried over MgSO4, and conc. in vacuo to a brown solid. The solid was purified by trituration with chloroform to yield 103 mg of the desired product as a white solid. MS (ESI) 389 (M+H).

reactant | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-methoxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.5 mmol, 201 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=C(C=C23)OC)OC(F)(F)F)=O)CC1 | C18H21F3N2O5
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | di-t-butyl dicarbonate | 0.5 mmol, 109 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.75 mL | C(Cl)Cl | CH2Cl2
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-9-hydroxy-7-trifluoromethoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 103 mg | C(C)(C)(C)OC(=O)N1CC2N(C(C3=C(C=C(C=C23)O)OC(F)(F)F)=O)CC1 | C17H19F3N2O5
